* G1_BGR post-layout netlist: kpex 2.5D extraction (--mode CC) of layout/g1_bgr.gds, reformatted for ngspice
* by sim/postlayout/make_pex_netlist.py (see its docstring; no circuit content changed).
* source: g1_bgr_k25d_pex_netlist.spice
.subckt g1_bgr vdd vss r4 vref iptat pbias pcasc vbe dvbe
XR1 vss n_23 vss rhigh w=0.5u l=49u b=0 m=1
XR2 n_12 det vss rhigh w=0.5u l=49u b=0 m=1
XR3 n_13 n_24 vss rhigh w=0.5u l=49u b=0 m=1
XR4 n_14 n_24 vss rhigh w=0.5u l=49u b=0 m=1
XR5 n_14 n_26 vss rhigh w=0.5u l=49u b=0 m=1
XR6 n_15 n_26 vss rhigh w=0.5u l=49u b=0 m=1
XR7 n_15 n_27 vss rhigh w=0.5u l=49u b=0 m=1
XR8 n_16 n_27 vss rhigh w=0.5u l=49u b=0 m=1
XR9 n_16 n_21 vss rhigh w=0.5u l=49u b=0 m=1
XR10 n_12 n_25 vss rhigh w=0.5u l=49u b=0 m=1
XR11 n_13 n_25 vss rhigh w=0.5u l=49u b=0 m=1
XR12 n_17 n_22 vss rhigh w=0.5u l=49u b=0 m=1
XR13 n_18 n_22 vss rhigh w=0.5u l=49u b=0 m=1
XR14 n_18 n_23 vss rhigh w=0.5u l=49u b=0 m=1
XR15 n_17 n_21 vss rhigh w=0.5u l=49u b=0 m=1
XR16 vss dvbe vss rppd w=1u l=51.5u b=0 m=1
XR17 n_7 vref vss rppd w=1u l=52.5u b=0 m=1
XR18 n_2 n_36 vss rppd w=1u l=52.5u b=0 m=1
XR19 n_7 n_36 vss rppd w=1u l=52.5u b=0 m=1
XR20 n_2 n_37 vss rppd w=1u l=52.5u b=0 m=1
XR21 n_8 n_37 vss rppd w=1u l=52.5u b=0 m=1
XR22 n_8 vbe3 vss rppd w=1u l=52.5u b=0 m=1
XR23 n_6 vb2 vss rppd w=1u l=48u b=0 m=1
XR24 n_9 vd1 vss rppd w=1u l=48u b=0 m=1
XR25 n_6 n_19 vss rppd w=1u l=48u b=0 m=1
XR26 n_9 n_19 vss rppd w=1u l=48u b=0 m=1
XM27 kick det vdd vdd sg13_hv_pmos l=0.5u w=2u as=0.68p ad=0.68p ps=4.68u pd=4.68u rfmode=0
XM28 r4n r4 vdd vdd sg13_hv_pmos l=0.5u w=2u as=0.68p ad=0.68p ps=4.68u pd=4.68u rfmode=0
XM29 vbe r4 b1b vss sg13_hv_nmos l=0.5u w=2u as=0.68p ad=0.68p ps=4.68u pd=4.68u rfmode=0
XM30 pbias kick vss vss sg13_hv_nmos l=4u w=1u as=0.34p ad=0.34p ps=2.68u pd=2.68u rfmode=0
XM31 kick det vss vss sg13_hv_nmos l=0.5u w=1u as=0.34p ad=0.34p ps=2.68u pd=2.68u rfmode=0
XM32 r4n r4 vss vss sg13_hv_nmos l=0.5u w=1u as=0.34p ad=0.34p ps=2.68u pd=2.68u rfmode=0
XM33 b1b r4n vss vss sg13_hv_nmos l=0.5u w=1u as=0.34p ad=0.34p ps=2.68u pd=2.68u rfmode=0
XM34 n1 vb2 vbe vss sg13_hv_nmos l=1u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM35 c2 vb2 pcasc vss sg13_hv_nmos l=1u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM36 vbe vb2 n1 vss sg13_hv_nmos l=1u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM37 pcasc vb2 c2 vss sg13_hv_nmos l=1u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM38 d1 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM39 d2 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM40 d4 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM41 d5 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM42 det pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM43 d3 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM44 d3 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM45 d5 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM46 d4 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM47 d2 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM48 d1 pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM49 det pbias vdd vdd sg13_hv_pmos l=4u w=5u as=1.7p ad=1.7p ps=10.68u pd=10.68u rfmode=0
XM50 vb2 pcasc d5 d5 sg13_hv_pmos l=4u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM51 vref pcasc d3 d3 sg13_hv_pmos l=4u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM52 n1 pcasc d1 d1 sg13_hv_pmos l=4u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM53 iptat pcasc d4 d4 sg13_hv_pmos l=4u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XM54 pbias pcasc d2 d2 sg13_hv_pmos l=4u w=10u as=3.4p ad=3.4p ps=20.68u pd=20.68u rfmode=0
XQ55 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ56 vbe vbe vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ57 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ58 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ59 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ60 vbe3 vbe3 vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ61 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ62 vd2 vd2 vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ63 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ64 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ65 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ66 vss vss vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ67 vbe b1b vss vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ68 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ69 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ70 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ71 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ72 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ73 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ74 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ75 vd1 vd1 vd2 vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XQ76 c2 vbe dvbe vss npn13G2 we=0.07u le=0.9u Nx=1 m=1
XR77 n_4 pbias vss rppd w=1u l=50u b=0 m=1
XR78 n_11 n_34 vss rppd w=1u l=50u b=0 m=1
XR79 n_10 n_34 vss rppd w=1u l=50u b=0 m=1
XR80 n_3 n_31 vss rppd w=1u l=50u b=0 m=1
XR81 n_10 n_33 vss rppd w=1u l=50u b=0 m=1
XR82 n_5 n_31 vss rppd w=1u l=50u b=0 m=1
XR83 n_5 n_30 vss rppd w=1u l=50u b=0 m=1
XR84 n_4 n_30 vss rppd w=1u l=50u b=0 m=1
XR85 n_3 n_33 vss rppd w=1u l=50u b=0 m=1
XR86 n_11 pcasc vss rppd w=1u l=50u b=0 m=1
Cext_1 n_10 n_11 15.5101e-18
Cext_2 n_10 n_3 19.0458e-18
Cext_3 n_10 vss 100.194e-18
Cext_4 n_10 vss 481.031e-18
Cext_5 n_11 n_12 2.09203e-18
Cext_6 n_11 n_3 0.524321e-18
Cext_7 n_11 vss 100.194e-18
Cext_8 n_11 vss 493.568e-18
Cext_9 n_12 n_13 14.2084e-18
Cext_10 n_12 vss 62.783e-18
Cext_11 n_12 vss 309.014e-18
Cext_12 n_13 n_14 14.2084e-18
Cext_13 n_13 vss 62.783e-18
Cext_14 n_13 vss 297.347e-18
Cext_15 n_14 n_15 14.2084e-18
Cext_16 n_14 vss 62.783e-18
Cext_17 n_14 vss 297.347e-18
Cext_18 n_15 n_16 14.2084e-18
Cext_19 n_15 vss 62.783e-18
Cext_20 n_15 vss 297.347e-18
Cext_21 n_16 n_17 14.2084e-18
Cext_22 n_16 vss 71.2957e-18
Cext_23 n_16 vss 295.974e-18
Cext_24 n_17 n_18 14.2084e-18
Cext_25 n_17 vss 63.3242e-18
Cext_26 n_17 vss 297.347e-18
Cext_27 n_18 vss 81.0158e-18
Cext_28 n_18 vss 297.347e-18
Cext_29 n_19 n_31 0.26116e-18
Cext_30 n_19 n_33 0.26116e-18
Cext_31 n_19 n_36 14.9703e-18
Cext_32 n_19 n_37 14.9703e-18
Cext_33 n_19 dvbe 159.131e-18
Cext_34 n_19 pbias 5.07141e-18
Cext_35 n_19 vb2 172.86e-18
Cext_36 n_19 vbe3 95.8794e-18
Cext_37 n_19 vd1 193.63e-18
Cext_38 n_19 vd2 410.357e-18
Cext_39 n_19 vref 95.1702e-18
Cext_40 n_19 vss 223.967e-18
Cext_41 n_19 vss 1.72175f
Cext_42 n_2 n_3 694.791e-18
Cext_43 n_2 n_6 0.524321e-18
Cext_44 n_2 n_7 19.0458e-18
Cext_45 n_2 n_8 19.0458e-18
Cext_46 n_2 n_9 0.524321e-18
Cext_47 n_2 vss 501.967e-18
Cext_48 n_2 vss 734.815e-18
Cext_49 n_21 n_22 14.2084e-18
Cext_50 n_21 n_27 14.2084e-18
Cext_51 n_21 b1b 0.735115e-18
Cext_52 n_21 vss 12.0025e-18
Cext_53 n_21 vss 331.598e-18
Cext_54 n_22 n_23 14.2084e-18
Cext_55 n_22 b1b 0.735115e-18
Cext_56 n_22 vss 12.0025e-18
Cext_57 n_22 vss 331.598e-18
Cext_58 n_23 b1b 0.735115e-18
Cext_59 n_23 vss 14.9704e-18
Cext_60 n_23 vss 341.848e-18
Cext_61 n_24 n_25 14.2084e-18
Cext_62 n_24 n_26 14.2084e-18
Cext_63 n_24 b1b 0.735115e-18
Cext_64 n_24 det 0.541131e-18
Cext_65 n_24 vss 12.0025e-18
Cext_66 n_24 vss 331.598e-18
Cext_67 n_25 b1b 0.735115e-18
Cext_68 n_25 det 18.2327e-18
Cext_69 n_25 vss 12.0025e-18
Cext_70 n_25 vss 331.598e-18
Cext_71 n_26 n_27 14.2084e-18
Cext_72 n_26 b1b 0.735115e-18
Cext_73 n_26 det 0.167332e-18
Cext_74 n_26 vss 12.0025e-18
Cext_75 n_26 vss 331.598e-18
Cext_76 n_27 b1b 0.735115e-18
Cext_77 n_27 vss 12.0025e-18
Cext_78 n_27 vss 331.598e-18
Cext_79 n_3 n_4 0.524321e-18
Cext_80 n_3 n_5 19.0458e-18
Cext_81 n_3 n_6 31.1754e-18
Cext_82 n_3 n_7 12.6539e-18
Cext_83 n_3 n_8 12.6539e-18
Cext_84 n_3 n_9 30.9049e-18
Cext_85 n_3 vss 903.669e-18
Cext_86 n_3 vss 1.48902f
Cext_87 n_30 n_31 15.5101e-18
Cext_88 n_30 dvbe 1.65454e-18
Cext_89 n_30 pbias 19.0458e-18
Cext_90 n_30 vb2 0.855051e-18
Cext_91 n_30 vss 24.3204e-18
Cext_92 n_30 vss 527.822e-18
Cext_93 n_31 dvbe 1.65454e-18
Cext_94 n_31 pbias 0.524321e-18
Cext_95 n_31 vb2 5.91722e-18
Cext_96 n_31 vss 24.3204e-18
Cext_97 n_31 vss 541.141e-18
Cext_98 n_33 n_34 15.5101e-18
Cext_99 n_33 b1b 0.120904e-18
Cext_100 n_33 pcasc 0.524321e-18
Cext_101 n_33 vbe3 2.26884e-18
Cext_102 n_33 vd1 5.91722e-18
Cext_103 n_33 vss 24.2823e-18
Cext_104 n_33 vss 541.141e-18
Cext_105 n_34 b1b 0.247176e-18
Cext_106 n_34 pcasc 19.0458e-18
Cext_107 n_34 vbe3 2.29766e-18
Cext_108 n_34 vd1 0.855051e-18
Cext_109 n_34 vss 24.3204e-18
Cext_110 n_34 vss 527.822e-18
Cext_111 n_36 n_37 4.91263e-18
Cext_112 n_36 dvbe 1.31773e-18
Cext_113 n_36 pbias 0.253448e-18
Cext_114 n_36 vref 19.777e-18
Cext_115 n_36 vss 103.246e-18
Cext_116 n_36 vss 490.2e-18
Cext_117 n_37 dvbe 5.91722e-18
Cext_118 n_37 pbias 0.253448e-18
Cext_119 n_37 vbe3 19.777e-18
Cext_120 n_37 vd2 0.820484e-18
Cext_121 n_37 vss 91.632e-18
Cext_122 n_37 vss 490.2e-18
Cext_123 n_4 n_5 15.5101e-18
Cext_124 n_4 vss 111.854e-18
Cext_125 n_4 vss 490.996e-18
Cext_126 n_5 vss 100.194e-18
Cext_127 n_5 vss 481.031e-18
Cext_128 n_6 n_7 15.5101e-18
Cext_129 n_6 vss 94.7854e-18
Cext_130 n_6 vss 481.031e-18
Cext_131 n_7 vss 95.5187e-18
Cext_132 n_7 vss 481.031e-18
Cext_133 n_8 n_9 15.5101e-18
Cext_134 n_8 vss 95.1057e-18
Cext_135 n_8 vss 481.031e-18
Cext_136 n_9 vss 99.5028e-18
Cext_137 n_9 vss 480.311e-18
Cext_138 b1b det 3.08988f
Cext_139 b1b kick 18.9647e-18
Cext_140 b1b pbias 847.105e-18
Cext_141 b1b pcasc 735.082e-18
Cext_142 b1b r4 332.534e-18
Cext_143 b1b r4n 197.625e-18
Cext_144 b1b vbe 741.197e-18
Cext_145 b1b vbe3 1.07019f
Cext_146 b1b vd1 42.3574e-18
Cext_147 b1b vd2 0.214735e-18
Cext_148 b1b vss 1.39679f
Cext_149 c2 det 1.09491e-18
Cext_150 c2 dvbe 14.8445f
Cext_151 c2 n1 1.78008f
Cext_152 c2 pbias 3.1973e-18
Cext_153 c2 pcasc 683.913e-18
Cext_154 c2 vb2 1.28399f
Cext_155 c2 vbe 407.234e-18
Cext_156 c2 vref 0.457024e-18
Cext_157 c2 vss 1.76096f
Cext_158 d1 d2 3.38132f
Cext_159 d1 d3 369.77e-18
Cext_160 d1 d4 105.35e-18
Cext_161 d1 d5 67.0643e-18
Cext_162 d1 det 66.6465e-18
Cext_163 d1 iptat 1.22759e-18
Cext_164 d1 kick 66.4272e-18
Cext_165 d1 n1 69.0247e-18
Cext_166 d1 pbias 5.54508f
Cext_167 d1 pcasc 539.684e-18
Cext_168 d1 r4 89.8574e-18
Cext_169 d1 r4n 66.3707e-18
Cext_170 d1 vb2 3.51936e-18
Cext_171 d1 vdd 478.72e-18
Cext_172 d1 vref 85.5231e-18
Cext_173 d1 vss 7.31884e-18
Cext_174 d2 d3 2.47943f
Cext_175 d2 d4 603.724e-18
Cext_176 d2 d5 62.4898e-18
Cext_177 d2 det 270.036e-18
Cext_178 d2 iptat 1.22759e-18
Cext_179 d2 kick 84.8402e-18
Cext_180 d2 n1 85.2692e-18
Cext_181 d2 pbias 1.59819f
Cext_182 d2 pcasc 541.399e-18
Cext_183 d2 r4 89.9071e-18
Cext_184 d2 r4n 66.4466e-18
Cext_185 d2 vb2 0.58192e-18
Cext_186 d2 vdd 478.512e-18
Cext_187 d2 vss 8.38671e-18
Cext_188 d3 d4 3.36401f
Cext_189 d3 d5 495.887e-18
Cext_190 d3 det 67.4106e-18
Cext_191 d3 iptat 1.22759e-18
Cext_192 d3 kick 66.5915e-18
Cext_193 d3 pbias 1.54168f
Cext_194 d3 pcasc 541.425e-18
Cext_195 d3 r4 89.9115e-18
Cext_196 d3 r4n 66.4676e-18
Cext_197 d3 vb2 86.7912e-18
Cext_198 d3 vdd 478.512e-18
Cext_199 d3 vref 69.0247e-18
Cext_200 d3 vss 1.8489e-18
Cext_201 d4 d5 5.71403f
Cext_202 d4 det 99.591e-18
Cext_203 d4 iptat 70.2523e-18
Cext_204 d4 kick 248.615e-18
Cext_205 d4 pbias 1.56219f
Cext_206 d4 pcasc 540.29e-18
Cext_207 d4 r4 90.2237e-18
Cext_208 d4 r4n 71.5847e-18
Cext_209 d4 vb2 0.238401e-18
Cext_210 d4 vdd 480.244e-18
Cext_211 d4 vss 13.0714e-18
Cext_212 d5 det 9.09587f
Cext_213 d5 iptat 1.22759e-18
Cext_214 d5 kick 86.0785e-18
Cext_215 d5 pbias 1.34059f
Cext_216 d5 pcasc 545.423e-18
Cext_217 d5 r4 241.428e-18
Cext_218 d5 r4n 170.512e-18
Cext_219 d5 vb2 69.4934e-18
Cext_220 d5 vdd 478.512e-18
Cext_221 d5 vss 9.92566e-18
Cext_222 det dvbe 1.47054e-18
Cext_223 det kick 10.5027f
Cext_224 det n1 2.03967e-18
Cext_225 det pbias 2.27172f
Cext_226 det pcasc 7.15985f
Cext_227 det r4 360.612e-18
Cext_228 det r4n 824.601e-18
Cext_229 det vb2 60.8768e-18
Cext_230 det vbe 32.2826e-18
Cext_231 det vbe3 34.4541e-18
Cext_232 det vdd 339.328e-18
Cext_233 det vss 783.982e-18
Cext_234 dvbe iptat 0.236884e-18
Cext_235 dvbe kick 0.311768e-18
Cext_236 dvbe n1 3.63074e-18
Cext_237 dvbe pbias 193.075e-18
Cext_238 dvbe pcasc 5.36919e-18
Cext_239 dvbe vb2 89.4959e-18
Cext_240 dvbe vbe 11.6494f
Cext_241 dvbe vbe3 15.8721e-18
Cext_242 dvbe vd1 0.145608e-18
Cext_243 dvbe vd2 156.801e-18
Cext_244 dvbe vref 4.6575f
Cext_245 dvbe vss 3.91955f
Cext_246 iptat n1 45.5207e-18
Cext_247 iptat pbias 6.1594e-18
Cext_248 iptat pcasc 975.203e-18
Cext_249 iptat vb2 6.11366f
Cext_250 iptat vbe 70.5206e-18
Cext_251 iptat vref 223.508e-18
Cext_252 iptat vss 289.493e-18
Cext_253 kick pbias 1.11756f
Cext_254 kick pcasc 12.9977e-18
Cext_255 kick r4 126.975e-18
Cext_256 kick r4n 7.98667f
Cext_257 kick vb2 3.0592e-18
Cext_258 kick vbe 0.356062e-18
Cext_259 kick vdd 152.428e-18
Cext_260 kick vss 519.69e-18
Cext_261 n1 pbias 6.39949e-18
Cext_262 n1 pcasc 4.83147f
Cext_263 n1 vb2 1.32414f
Cext_264 n1 vbe 1.91233f
Cext_265 n1 vref 6.41414e-18
Cext_266 n1 vss 116.638e-18
Cext_267 pbias pcasc 9.33416f
Cext_268 pbias r4 2.50831f
Cext_269 pbias r4n 732.455e-18
Cext_270 pbias vb2 1.54255f
Cext_271 pbias vbe 3.71289e-18
Cext_272 pbias vbe3 157.678e-18
Cext_273 pbias vd1 49.6104e-18
Cext_274 pbias vd2 147.156e-18
Cext_275 pbias vdd 3.85011f
Cext_276 pbias vref 213.907e-18
Cext_277 pbias vss 3.75278f
Cext_278 pcasc r4 2.77052e-18
Cext_279 pcasc r4n 2.04066e-18
Cext_280 pcasc vb2 3.71047f
Cext_281 pcasc vbe 953.297e-18
Cext_282 pcasc vbe3 313.659e-18
Cext_283 pcasc vref 2.31913f
Cext_284 pcasc vss 598.224e-18
Cext_285 r4 r4n 12.2762f
Cext_286 r4 vbe 285.464e-18
Cext_287 r4 vdd 83.346e-18
Cext_288 r4 vss 415.346e-18
Cext_289 r4n vbe 62.6373e-18
Cext_290 r4n vdd 158.562e-18
Cext_291 r4n vss 591.385e-18
Cext_292 vb2 vbe 1.27566f
Cext_293 vb2 vref 6.68835f
Cext_294 vb2 vss 708.188e-18
Cext_295 vbe vbe3 11.0316e-18
Cext_296 vbe vd1 10.5784e-18
Cext_297 vbe vd2 29.0277e-18
Cext_298 vbe vref 223.747e-18
Cext_299 vbe vss 5.2939f
Cext_300 vbe3 vd1 394.468e-18
Cext_301 vbe3 vd2 245.219e-18
Cext_302 vbe3 vss 1.39267f
Cext_303 vd1 vd2 2.03701f
Cext_304 vd1 vss 364.135e-18
Cext_305 vd2 vss 1.51724f
Cext_306 vref vss 480.6e-18
Cext_307 vss b1b 4.41403f
Cext_308 vss c2 4.95536f
Cext_309 vss d1 2.31262f
Cext_310 vss d2 2.22418f
Cext_311 vss d3 2.35423f
Cext_312 vss d4 2.28807f
Cext_313 vss d5 2.73371f
Cext_314 vss det 6.4979f
Cext_315 vss dvbe 6.69786f
Cext_316 vss iptat 1.94954f
Cext_317 vss kick 3.02926f
Cext_318 vss n1 2.16318f
Cext_319 vss pbias 45.0447f
Cext_320 vss pcasc 30.7628f
Cext_321 vss r4 4.25325f
Cext_322 vss r4n 2.48056f
Cext_323 vss vb2 11.6562f
Cext_324 vss vbe 8.8365f
Cext_325 vss vbe3 1.77779f
Cext_326 vss vd1 1.42461f
Cext_327 vss vd2 1.56685f
Cext_328 vss vdd 18.8574f
Cext_329 vss vref 2.41436f
.ends g1_bgr
